US07795288B2
1-Isothiocyanato-4-methoxy-2-trifluoromethyl-benzene
The title compound is prepared as described in Example 1 for 1-[2-(4-isothiocyanato-phenoxy)-ethyl]-pyrrolidine but using 4-methoxy-2-trifluoromethylaniline. Title compound: 1H NMR [400 MHz, (CD3)2SO]: 7.70-7.55 (m, 1H), 7.35-7.15 (m, 2H), 3.28 (s, 3H); single peak at tR=5.61 min (System 2).

reactant | 1-[2-(4-isothiocyanato-phenoxy)-ethyl]-pyrrolidine | N(=C=S)C1=CC=C(OCCN2CCCC2)C=C1 | C13H16N2OS
reactant | 4-methoxy-2-trifluoromethylaniline | COC1=CC(=C(N)C=C1)C(F)(F)F | C8H8F3NO
product | 1-Isothiocyanato-4-methoxy-2-trifluoromethyl-benzene | N(=C=S)C1=C(C=C(C=C1)OC)C(F)(F)F | C9H6F3NOS
